US05502054
To a suspension of 3.8 g (0.10 mole) of lithium aluminum hydride in 50 mL of tetrahydrofuran is added dropwise a solution of 18.4 g (0.10 mole) of 2-(4-chlorophenyl)propionic acid in 200 mL of tetrahydrofuran. This reaction mixture is allowed to stir at ambient temperature for a period of approximately 16 hours after which it is cooled by an ice/water bath. To the cooled reaction mixture are added in sequence 4 mL of water, 4 mL of a 10% aqueous solution of sodium hydroxide, and 12 mL of water. The mixture is then filtered, and the filter cake is washed with diethyl ether. The diethyl ether wash is combined with the filtrate, and the combination is dried over anhydrous magnesium sulfate. The solvents are then evaporated under reduced pressure, leaving 2-(4-chlorophenyl)propanol as a residue.

reactant | lithium aluminum hydride | 0.10 mole, 3.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-chlorophenyl)propionic acid | 0.10 mole, 18.4 g | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | water | 4 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 12 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-(4-chlorophenyl)propanol | ClC1=CC=C(C=C1)C(CO)C | C9H11ClO
